US08071584B2
1-(1,1-Dimethylethyl) 7-ethyl 2,3-dihydro-1H-indole-1,7-dicarboxylate
A 1.3 M solution of sec-butyl lithium in cyclohexanes (1642 mL, 2.13 mol) was added dropwise to a solution of 1,1-dimethylethyl 2,3-dihydro-1H-indole-1-carboxylate (300 g, 1.37 mol) and N,N,N′,N′ tetramethyl-1,2-ethanediamine (248 mL, 1.64 mol) in dry diethyl ether (2.5 L) at −78° C. The reaction mixture was stirred for 2 hours at this temperature and ethyl chloroformate (143.9 mL, 1.50 mol) was added dropwise to the mixture at −78° C. After the addition, the reaction was allowed to warm to room temperature overnight. Water (1 L) was added carefully to the mixture and the organic layer was separated and dried (Na2SO4). The solution was concentrated and the residue was purified by silica-gel column chromatography (PE:EA=10:1), giving 150 g (38%) of the title compound.

reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 1,1-dimethylethyl 2,3-dihydro-1H-indole-1-carboxylate | 1.37 mol, 300 g | N1(CCC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H17NO2
reactant | N,N,N′,N′ tetramethyl-1,2-ethanediamine | 1.64 mol, 248 mL | CN(CCN(C)C)C | C6H16N2
reactant | ethyl chloroformate | 1.50 mol, 143.9 mL | ClC(=O)OCC | C3H5ClO2
solvent | diethyl ether | 2.5 L | C(C)OCC | C4H10O
solvent | Water | 1 L | O | H2O
product | 1-(1,1-Dimethylethyl) 7-ethyl 2,3-dihydro-1H-indole-1,7-dicarboxylate | 150 g, 38% | N1(CCC2=CC=CC(=C12)C(=O)OCC)C(=O)OC(C)(C)C | C16H21NO4
